US06716851B2
4-(2-Hydroxy-5-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 2-hydroxy-5-methylaniline (36 mg, 0.290 mmol) similar to Example 117 and isolated as a brown solid (10 mg, 15%). 1H NMR (Acetone-d6): 9.58 (s, 1H), 8.87 (s, 1H), 8.74 (s, 1H), 8.72-8.68 (m, 2H), 7.89 (s, 1H), 7.58-7.53 (m, 1H), 7.24 (s, 1H), 6.92 (s, 2H), 2.33 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 2-hydroxy-5-methylaniline | 0.290 mmol, 36 mg | OC1=C(N)C=C(C=C1)C | C7H9NO
product | 4-(2-Hydroxy-5-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | OC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C=C1)C | C17H13F3N4O
